US08357634B2
To a solution of O-methyl hydroxylamine hydrochloride (2.5 g, 30.48 mmol) in methanol (25 ml), was added triethylamine (30.48 mmoles) followed by 3-iodo acetophenone (5 g, 20.3 mmol) and the mixture was heated at 60° C. for 3 hours. On completion of the reaction, the mixture was concentrated to remove methanol, to give 1-(3-iodo-phenyl)-ethanone O-methyl-oxime (crude), which was dissolved in glacial acetic acid (50 ml). Sodium cyanoborohydride (2.5 g, 40 mmol) was added portion wise. The mixture was allowed to stirr overnight at ambient temperature. The reaction mixture was concentrated to remove acetic acid and diluted with water. The aqueous layer was extracted with ethyl acetate (3×80 ml), the combined organic layer is washed with brine (40 ml) and dried over sodium sulphate. Organic layer was concentrated under vacuum to obtain 5.6 g crude material, which was subjected to column purification (60-120μ mesh silica gel, 15% ethyl acetate in hexane) to give 3.4 g (54% of theory) of N-[1-(3-Iodo-phenyl)-ethyl]-O-methyl-hydroxylamine.

reactant | O-methyl hydroxylamine hydrochloride | 30.48 mmol, 2.5 g | Cl.CON
reactant | triethylamine | 30.48 mmoles | C(C)N(CC)CC | C6H15N
reactant | 3-iodo acetophenone | 20.3 mmol, 5 g | CC(=O)C1=CC(=CC=C1)I | C8H7IO
solvent | methanol | 25 ml | CO | CH4O
product | 1-(3-iodo-phenyl)-ethanone O-methyl-oxime | CON=C(C)C1=CC(=CC=C1)I | C9H10INO
